US07553973B2
Step 1b: 3-(5-Amino-1,3,4-oxadiazol-2-yl)pentan-3-ol
A mixture of methyl 2-ethyl-2-hydroxybutanoate (19.7 g, 134.7 mol) and hydrazine hydrate (14 mL) was heated to 130° C. for 4 h. The mixture was cooled to rt and excess reagent removed under vacuum to yield of the hydrazide. To this hydrazide and KHCO3 (13.8 g, 138 mmol) in 150 mL of water was added portionwise BrCN (13.8 g, 131 mmol). After 90 min of stirring, the white solid was filtered, washed with ether and dried to yield the title compound. 1H NMR (400 MHz, acetone-d6): δ 6.20 (bs, 2H), 4.25 (s, 1H), 1.85 (m, 4H), 0.88 (t, 6H).

reactant | methyl 2-ethyl-2-hydroxybutanoate | 134.7 mol, 19.7 g | C(C)C(C(=O)OC)(CC)O | C7H14O3
reactant | hydrazine hydrate | 14 mL | O.NN
reactant | BrCN | 131 mmol, 13.8 g | BrC#N | CBrN
solvent | water | 150 mL | O | H2O
product | 3-(5-Amino-1,3,4-oxadiazol-2-yl)pentan-3-ol | NC1=NN=C(O1)C(CC)(CC)O | C7H13N3O2
